US04614833
2-chloro-4-(4-fluorobenzoyl)-pyridine
0.88 g 4-(4-fluorobenzoyl)-pyridine N-oxide and 50 ml POCl3 are refluxed for 2 hrs. Excess POCl3 is distilled at normal pressure. The crude is treated with slightly alkaline cold water and then extracted with methylene chloride. Working as usual affords 0.80 g of title product, identical with that obtained by the Friedel-Crafts process (see Ex. 3d).

reactant | 4-(4-fluorobenzoyl)-pyridine N-oxide | 0.88 g | FC1=CC=C(C(=O)C2=CC=[N+](C=C2)[O-])C=C1 | C12H8FNO2
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(4-fluorobenzoyl)-pyridine | 0.80 g | ClC1=NC=CC(=C1)C(C1=CC=C(C=C1)F)=O | C12H7ClFNO
